US07723356B2
Gi) 2-Bromo-N-isoxazol-3-yl-propionamide
To a cooled (−40° C.) stirring solution of 3-aminoisoxazole (0.88 ml, 11.9 mmol) and triethylamine (1.99 ml, 14.3 mmol) in chloroform (6 ml) is added slowly, 2-bromopropionyl bromide (1.37 ml, 13.1 mmol) in chloroform (6 ml). The reaction mixture is stirred at −40° C. for 30 minutes, and then allowed to warm to room temperature. The mixture is then partitioned between 1M aqueous hydrochloric acid and ethyl acetate. The organic extract is washed with saturated sodium hydrogen carbonate, dried over Na2SO4 and the solvent removed in vacuo to afford the titled compound as a yellow oil.

reactant | 3-aminoisoxazole | 11.9 mmol, 0.88 ml | NC1=NOC=C1 | C3H4N2O
reactant | triethylamine | 14.3 mmol, 1.99 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromopropionyl bromide | 13.1 mmol, 1.37 ml | BrC(C(=O)Br)C | C3H4Br2O
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-N-isoxazol-3-yl-propionamide | BrC(C(=O)NC1=NOC=C1)C | C6H7BrN2O2
